* Z:\home\benedikt\Development\battery-system\simulations\charge_and_discharge_fets.asc
R1 N010 0 0.1
V1 N001 N010 12
V3 N003 N009 14
R2 N009 0 10
M§Qcharge N001 N005 N002 N002 AO6407
M§Qdischarge N003 N006 N002 N002 AO6407
V4 N008 0 3
M1 N006 N008 0 0 NMOS
D1 N003 N004 D
D2 N001 N004 D
R3 N004 N006 100000
V2 N007 0 3
M2 N005 N007 0 0 NMOS
R4 N004 N005 100000
.model D D
.lib C:\users\benedikt@benediktschmidt.at\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\benedikt@benediktschmidt.at\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.backanno
.end
